* E:\FOSSEE\eSim\library\SubcircuitLibrary\811M\811M.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/08/25 22:03:52

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q4  Net-_Q4-Pad1_ Net-_Q4-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q3  Net-_Q1-Pad3_ Net-_Q11-Pad1_ Net-_Q3-Pad3_ eSim_NPN		
R2  Net-_Q3-Pad3_ Net-_R16-Pad2_ 0.24k		
R1  Net-_Q2-Pad3_ Net-_Q1-Pad1_ 0.91k		
R3  Net-_Q2-Pad3_ Net-_Q7-Pad2_ 0.91k		
R4  Net-_Q7-Pad2_ Net-_Q4-Pad1_ 0.1k		
Q2  Net-_D1-Pad1_ Net-_Q2-Pad2_ Net-_Q2-Pad3_ eSim_NPN		
R5  Net-_D1-Pad1_ Net-_Q2-Pad2_ 4.3k		
Q5  Net-_Q2-Pad2_ Net-_Q1-Pad1_ Net-_Q5-Pad3_ eSim_NPN		
Q6  Net-_Q2-Pad2_ Net-_Q4-Pad1_ Net-_Q5-Pad3_ eSim_NPN		
Q7  Net-_Q7-Pad1_ Net-_Q7-Pad2_ Net-_Q5-Pad3_ eSim_NPN		
R6  Net-_D2-Pad2_ Net-_Q7-Pad1_ 5.3k		
D2  Net-_D1-Pad2_ Net-_D2-Pad2_ eSim_Diode		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
U2  Net-_Q10-Pad2_ Net-_Q5-Pad3_ zener		
Q8  Net-_Q8-Pad1_ Net-_Q7-Pad1_ Net-_Q5-Pad3_ eSim_NPN		
R7  Net-_D1-Pad2_ Net-_Q8-Pad1_ 4.3k		
U3  Net-_U1-Pad5_ Net-_Q8-Pad1_ zener		
Q9  Net-_D1-Pad1_ Net-_Q8-Pad1_ Net-_Q9-Pad3_ eSim_NPN		
U4  Net-_Q10-Pad1_ Net-_Q9-Pad3_ zener		
Q10  Net-_Q10-Pad1_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_NPN		
R8  Net-_Q10-Pad3_ Net-_Q11-Pad1_ 5.05k		
Q11  Net-_Q11-Pad1_ Net-_Q11-Pad1_ Net-_Q11-Pad3_ eSim_NPN		
R9  Net-_Q11-Pad3_ Net-_R16-Pad2_ 0.24k		
Q12  Net-_D1-Pad1_ Net-_Q12-Pad2_ Net-_Q12-Pad3_ eSim_NPN		
U5  Net-_Q10-Pad1_ Net-_Q12-Pad3_ zener		
U6  Net-_U1-Pad8_ Net-_Q12-Pad2_ zener		
R10  Net-_D3-Pad2_ Net-_Q12-Pad2_ 4.3k		
Q13  Net-_Q12-Pad2_ Net-_Q13-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
D3  Net-_D1-Pad1_ Net-_D3-Pad2_ eSim_Diode		
D4  Net-_D3-Pad2_ Net-_D4-Pad2_ eSim_Diode		
R11  Net-_D4-Pad2_ Net-_Q13-Pad2_ 5.3k		
Q14  Net-_Q13-Pad2_ Net-_Q14-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
U7  Net-_Q10-Pad2_ Net-_Q13-Pad3_ zener		
Q15  Net-_Q15-Pad1_ Net-_Q15-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
R12  Net-_D1-Pad1_ Net-_Q15-Pad1_ 4.3k		
Q16  Net-_Q15-Pad1_ Net-_Q16-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
Q18  Net-_D1-Pad1_ Net-_Q15-Pad1_ Net-_Q18-Pad3_ eSim_NPN		
R15  Net-_Q18-Pad3_ Net-_Q16-Pad2_ 0.91k		
R13  Net-_Q18-Pad3_ Net-_Q14-Pad2_ 0.91k		
R14  Net-_Q14-Pad2_ Net-_Q15-Pad2_ 0.1k		
Q17  Net-_Q15-Pad2_ Net-_Q17-Pad2_ Net-_Q17-Pad3_ eSim_NPN		
Q20  Net-_Q16-Pad2_ Net-_Q20-Pad2_ Net-_Q17-Pad3_ eSim_NPN		
Q19  Net-_Q17-Pad3_ Net-_Q11-Pad1_ Net-_Q19-Pad3_ eSim_NPN		
R16  Net-_Q19-Pad3_ Net-_R16-Pad2_ 0.24k		
U1  Net-_Q1-Pad2_ Net-_Q4-Pad2_ Net-_D1-Pad1_ Net-_Q10-Pad2_ Net-_U1-Pad5_ Net-_Q10-Pad1_ Net-_R16-Pad2_ Net-_U1-Pad8_ Net-_Q20-Pad2_ Net-_Q17-Pad2_ PORT		

.end
